US05561149
a) 3-Chloro-8-methyl-8-azabicyclo[3.2.1]octane
To a solution of 95 g pseudotropine in 420 ml abs. CHCl3 are added dropwise at 0° 195 ml thionyl chloride within 20 minutes. The reaction mixture is refluxed for 4 hours, then left overnight at room temperature and then heated to 60°-65° for 3 hours. The mixture is then diluted with CH2Cl2 to a volume of ca. 100 to 150 ml and poured on ice-water. A 35% aqueous NaOH solution is added to a pH 11 and then dry ice to a pH 10. After extraction with CH2Cl2 and distillation of the extracts (second fraction~97°-98°) the title compound is obtained.

reactant | pseudotropine | 95 g | CN1[C@@H]2CC[C@H]1C[C@@H](C2)O | C8H15NO
reactant | thionyl chloride | 195 ml | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | [OH-].[Na+]
reactant | dry ice | C(=O)=O | CO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-8-methyl-8-azabicyclo[3.2.1]octane | ClC1CC2CCC(C1)N2C | C8H14ClN
